US05175157
N-Benzyl-3-(hydroxyethyl)-piperidine
A mixture of 40.3 g (0.35 mol) of 3-(hydroxymethyl)piperidine, 97.4 ml (0.70 mol) of triethylamine and 40.3 ml (0.35 mol) of benzyl chloride is heated to 95° C. within 30 minutes and left at this temperature for 2 hours. After cooling the reaction mixture is dissolved in a mixture of 2 molar sodium hydroxide solution and ethyl acetate. The organic phase is washed with water, separated off, dried over magnesium sulphate and concentrated by evaporation in vacuo. Yield: 57.2 g (79.6% of theory), Rf value: 0.45 (aluminium oxide neutral, eluant: 3% ethanol in methylene chloride).

reactant | 3-(hydroxymethyl)piperidine | 0.35 mol, 40.3 g | OCC1CNCCC1 | C6H13NO
reactant | triethylamine | 0.70 mol, 97.4 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloride | 0.35 mol, 40.3 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydroxide | 2 molar | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Benzyl-3-(hydroxyethyl)-piperidine | C(C1=CC=CC=C1)N1CC(CCC1)CCO | C14H21NO
